data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-F_1-c2ccc(C(C)(C)C)cc2_2-N(C)C_3-C_4-Cl_5-C(F)(F)F_6-C=C_7-Br_8-[N+](=O)[O-]_9-CC","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(c2ccc(C(C)(C)C)cc2)c(N(C)C)c(C)c(Cl)c(C(F)(F)F)c1O","c1(C=C)c(Br)c([N+](=O)[O-])c(CC)c(F)c1I"],"products_smiles": ["c1(c2ccc(C(C)(C)C)cc2)c(N(C)C)c(C)c(Cl)c(C(F)(F)F)c1Oc2c(C=C)c(Br)c([N+](=O)[O-])c(CC)c2(F)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(c2ccc(C(C)(C)C)cc2)c(N(C)C)c(C)c(Cl)c(C(F)(F)F)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=C)c(Br)c([N+](=O)[O-])c(CC)c(F)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C=C)c(Br)c([N+](=O)[O-])c(CC)c(F)c2[Cu](I)Oc1c(c2ccc(C(C)(C)C)cc2)c(N(C)C)c(C)c(Cl)c1(C(F)(F)F)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(c2ccc(C(C)(C)C)cc2)c(N(C)C)c(C)c(Cl)c(C(F)(F)F)c1Oc2c(C=C)c(Br)c([N+](=O)[O-])c(CC)c2(F)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-325_1-c1ccc(C(F)(F)F)cc1_2-C1COC(C)C1","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C1COC(C)C1","NN","[OH-]"],"products_smiles": ["C(c1ccc(C(F)(F)F)cc1)C1COC(C)C1"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(c1ccc(C(F)(F)F)cc1)C1COC(C)C1","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(c1ccc(C(F)(F)F)cc1)C1COC(C)C1","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(c1ccc(C(F)(F)F)cc1)C1COC(C)C1","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](c1ccc(C(F)(F)F)cc1)C1COC(C)C1","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)C1COC(C)C1","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
